US08809371B2
Potassium carbonate (78 mg) and 2-oxa-6-azaspiro[3.3]heptane (30 mg) were added to a methanol/DMF (1 ml/2 ml) solution containing 2-chloro-5-nitropyridine (30 mg), followed by stirring at 80° C. for 3 hours. The reaction solution was adjusted to room temperature, and water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=1:1 to 1:4), and a white solid of 6-(5-nitropyridin-2-yl)-2-oxa-6-azaspiro[3.3]heptane (23 mg) was thus obtained.

reactant | Potassium carbonate | 78 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-oxa-6-azaspiro[3.3]heptane | 30 mg | C1OCC12CNC2 | C5H9NO
reactant | methanol DMF | 1 ml | CO.CN(C)C=O
reactant | 2-chloro-5-nitropyridine | 30 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | water | O | H2O
product | 6-(5-nitropyridin-2-yl)-2-oxa-6-azaspiro[3.3]heptane | 23 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1CC2(COC2)C1 | C10H11N3O3
